US06121271
5-[4-(9-Bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-cyclopentyl-phenoxysulfonyl]-4-hydroxy-thiophene-3-carboxylic acid
At -78° C., to a stirred suspension of 5-[4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-cyclopentyl-phenoxysulfonyl]-4-methoxy-thiophene-3-carboxylic acid (0.286 g, 0.426 mmol) in CH2Cl2 (2.86 mL) was added 1M BBr3 /CH2Cl2 (1.32 mL, 1.32 mmol). After the addition was complete the dry ice/acetone bath was replaced with an ice water bath and the reaction was stirred for 1 h. The reaction was quenched with crushed ice, diluted with H2O (40 mL) and extracted with EtOAc. The combined organic extracts were combined with product from an identical experiment and concentrated. Purification on 2% H3PO4 /MeOH treated Biotage KP-Sil, eluting with 35% EtOAc/hexane gave 0.273 g (95%) of the title compound as a pale yellow solid, mp >230° C.; 1H NMR (DMSO-d6) δ 1.31-1.40 (m, 2 H), 1.47 (s, 3 H), 1.50-1.67 (m, 5 H), 1.80-1.83 (m, 1 H), 2.42 (s, 3 H), 3.32 (quintet, 1 H), 7.22 (dd, 1 H), 7.31-7.37 (m, 3 H), 7.48 (t, 1 H), 7.64 (t, 1 H), 8.19 (d, 1 H), 8.64 (s, 1 H). IR (KBr) 3400, 2950, 1650, 1375 and 1150 cm-1. mass spectrum (-ACPI), n/z 665 (M-H). Anal. Calcd. for C30H25BrO6S3.0.5H2O: C, 54.05; H, 3.93 N, 0.00. Found: C, 54.09; H, 3.98 N, 0.05.

reactant | 5-[4-(9-bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-cyclopentyl-phenoxysulfonyl]-4-methoxy-thiophene-3-carboxylic acid | 0.426 mmol, 0.286 g | BrC1=C2C=CC=CC2=C(C2=C1SC(=C2C)C)C2=CC(=C(OS(=O)(=O)C1=C(C(=CS1)C(=O)O)OC)C=C2)C2CCCC2 | C31H27BrO6S3
reactant | BBr3 CH2Cl2 | 1.32 mmol, 1M, 1.32 mL | B(Br)(Br)Br.C(Cl)Cl
reactant | dry ice acetone | C(=O)=O.CC(=O)C
solvent | CH2Cl2 | 2.86 mL | C(Cl)Cl | CH2Cl2
product | 5-[4-(9-Bromo-2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-cyclopentyl-phenoxysulfonyl]-4-hydroxy-thiophene-3-carboxylic acid | 0.273 g, 95% | BrC1=C2C=CC=CC2=C(C2=C1SC(=C2C)C)C2=CC(=C(OS(=O)(=O)C1=C(C(=CS1)C(=O)O)O)C=C2)C2CCCC2 | C30H25BrO6S3
